US04902700
Synthesis of 2-[trans-3-(4-hydroxybutoxy)styryl]benzothiazole (compound No. 423)
To 40 ml of ethyl ether was added 1.0 g of 2-[trans-3-(3-ethoxycarbonylpropoxy)styryl]benzothiazole, and 114 mg of lithium aluminum hydride was added under ice-cooling. After the mixture was stirred at the same temperature for 30 minutes, then at room temperature for 40 minutes, 114 μl of water, 114 μl of 15% aqueous sodium hydroxide and 340 μl of water were successively added slowly to decompose the aluminum complex, followed by extraction with toluene. After drying over anhydrous magnesium sklfate, the solvent was evaporated under reduced pressure and the crude crystals formed were washed with ethyl ether under ice-cooling, followed by drying under reduced pressure to give 570 mg (yield 64%) of the title compound.

reactant | ethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | 2-[trans-3-(3-ethoxycarbonylpropoxy)styryl]benzothiazole | 1.0 g | C(C)OC(=O)CCCOC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C21H21NO3S
reactant | lithium aluminum hydride | 114 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 114 μl | [OH-].[Na+]
solvent | water | 340 μl | O | H2O
solvent | water | 114 μl | O | H2O
product | 2-[trans-3-(4-hydroxybutoxy)styryl]benzothiazole | 570 mg, yield 64% | OCCCCOC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C19H19NO2S
